US20010023257A1
b1) octahydro-4,7-methanoinden-5-ylamine
A suspension of 10 g of bis-(6-chloro-3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)diazene N,N′-dioxide, 60 ml of methanol and Raney nickel was hydrogenated at 100° C. and under an H2 pressure of 100 atm for 10 hours. The catalyst was filtered off, the solvent was evaporated under reduced pressure using a rotary evaporator, the semicrystalline residue was mixed with water, and the mixture was made strongly alkaline by addition of 10 N NaOH. The mixture was extracted 3 to 4 times with methyl tert-butyl ether and the organic phases were dried over sodium sulfate, and the solvent was then distilled off and the oil was rectified under reduced pressure. Bp5mm 86-91° C.

reactant | bis-(6-chloro-3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)diazene N,N′-dioxide | 10 g | ClC1C(C2C3C=CCC3C1C2)[N+](=[N+](C2C1C3C=CCC3C(C2Cl)C1)[O-])[O-] | C20H24Cl2N2O2
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 60 ml | CO | CH4O
product | octahydro-4,7-methanoinden-5-ylamine | C1CCC2C3C(CC(C12)C3)N | C10H17N
